US05571774
N-1-(Cyclopropyl)ethyl-5-nitropyridine-2,3-dicarboximide
11.2 g (0.132 mol) of 1-cyclopropylethylamine were added to a mixture of 22.3 g (0.115 mol) of 5-nitropyridine-2,3-dicarboxylic anhydride in 150 ml of 1,2-dichloroethane at 25° C. with stirring in the course of 8 minutes and the mixture was stirred at 70° C. for 3 hours. After cooling to 25° C., 19.6 g (0.165 mol) of thionyl chloride were added with stirring in the course of 10 minutes and the mixture was stirred at 25° C. for 10 hours and at 70° C. for 1 1/2 hours. The reaction mixture was diluted with 100 ml of methylene chloride and added with stirring to 500 ml of ice-water. The aqueous phase was extracted twice more with methylene chloride. The organic phase was then washed successively with water, saturated sodium hydrogencarbonate and sodium chloride solution and filtered off with suction over neutral alumina. After concentrating, 21.5 g (72% of theory) of the title compound of m.p. 96°-99° C. were obtained (active compound Example 1.020).

reactant | 1-cyclopropylethylamine | 0.132 mol, 11.2 g | C1(CC1)C(C)N | C5H11N
reactant | 5-nitropyridine-2,3-dicarboxylic anhydride | 0.115 mol, 22.3 g | [N+](=O)([O-])C=1C=C2C(=NC1)C(=O)OC2=O | C7H2N2O5
reactant | thionyl chloride | 0.165 mol, 19.6 g | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-1-(Cyclopropyl)ethyl-5-nitropyridine-2,3-dicarboximide | C1(CC1)C(C)N1C(=O)C2=NC=C(C=C2C1=O)[N+](=O)[O-] | C12H11N3O4
